### PR TITLE
V2.0

### PR DESCRIPTION
**Pull request by aleksnanevski**
Upgrading to mathcomp2

### CODE REVIEW

File: examples/quicksort.v [hunk 1]
```diff
@@ -1,110 +1,96 @@
...
-move=> /cards1P[x Sx].
-have [-> | ntx] := eqVneq t x; last by apply: (out_perm pSu); rewrite Sx inE.
-by apply/eqP; have := perm_closed x pSu; rewrite Sx !inE => ->.
-Qed.
+(* Brief mathematics of quickorting *)
+(* There is some overlap with mathematics developed for bubblesort *)
+(* but the development is repeated here to make the files *)
+(* self-contained *)
 
 Lemma perm_onC {T : finType} (S1 S2 : {set T}) (u1 u2 : {perm T}) :
```
Comment (clayrat) [inline examples/quicksort.v:31]: This one can also be deleted, it was merged: https://github.com/math-comp/math-comp/blob/master/mathcomp/fingroup/perm.v#L198

File: examples/quicksort.v [hunk 2]
```diff
@@ -1,110 +1,96 @@
...
   by rewrite !(out_perm pS2) //; apply: S12; rewrite // perm_closed.
 case/boolP : (t \in S2) => tS2.
-  have /[1!disjoint_sym] /[!disjoint_subset] /subsetP {}S12 := S12.
+- have /[1!disjoint_sym] /[!disjoint_subset] /subsetP {}S12 := S12.
   by rewrite !(out_perm pS1) //; apply: S12; rewrite // perm_closed.
 by rewrite (out_perm pS1) // (out_perm pS2) // (out_perm pS1).
 Qed.
 
-Lemma tperm_on {T : finType} (x y : T) : perm_on [set x; y] (tperm x y).
+Lemma tperm_on {T : finType} (x y : T) :
```
Comment (clayrat) [inline examples/quicksort.v:47]: And this one too: https://github.com/math-comp/math-comp/blob/master/mathcomp/fingroup/perm.v#L259

**Comment by aleksnanevski** [comment]
ok, i'll submit new pull request. let me close this one first.
